US04003921
1000 g 3-methylbutanal are reacted in the presence of 100 g of a commercially available nickel containing carrier catalyst (containing about 52 to 53% by weight nickel and employing chromium (3)-oxide as activator) at 110° C with a mixture of ammonia and hydrogen (volume ratio 1:1) in a flask equipped as described in Example 1. The velocity of the gases is 160 l/h. Altogether, 240 l ammonia and 240 l hydrogen are introduced into the catalyst suspension over a reaction time of 3 hours. After termination of the reaction the catalyst is separated by filtration. 868 g 3-methylbutylidene-3-methylbutylamine are obtained.

reactant | 3-methylbutanal | 1000 g | CC(CC=O)C | C5H10O
reactant | ammonia | N | H3N
reactant | ammonia | 240 l | N | H3N
catalyst | nickel | [Ni] | Ni
solvent | hydrogen | 240 l | [H][H] | H2
product | 3-methylbutylidene-3-methylbutylamine | 868 g | CC(CC=NCCC(C)C)C | C10H21N
